US07456315B2
1.44 Preparation of 2,2-dimethyl-heptan-3-one
2,2-Dimethyl-heptan-3-ol (0.23 mol) was dissolved in 350 mL of CH2Cl2 in a 500 mL round bottom flask with a magnetic stirbar. The flask was partially cooled with ice. 76.6 g (0.355 mol) of pyridinium chlorochromate was added, while vigorously stirring. The reaction turned black and warmed up slightly. The reaction mixture was stirred at room temperature for 24 hours. The solution was decanted away from the black sludge, which was rinsed with hexane. The organic extracts were combined and chromatographed directly on silica gel. (Note: only silica has been found to trap and remove the reduced non-reacted chromium compounds). The product, 2,2-dimethyl-heptan-3-one, eluted with CH2Cl2/hexane and in a subsequent 10% ethyl acetate/hexane fraction to yield 29.19 g of product at 88% yield. 1H NMR (CDCl3, 500 MHz) δ (ppm): 2.48 (t, 2H), 1.54 (m, 2H), 1.28 (m, 2H), 1.13 (s, 9H), 0.90 (m, 3H).

reactant | 2,2-Dimethyl-heptan-3-ol | 0.23 mol | CC(C)(C(CCCC)O)C | C9H20O
reactant | pyridinium chlorochromate | 0.355 mol, 76.6 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-heptan-3-one | 29.19 g, 88% yield | CC(C)(C(CCCC)=O)C | C9H18O
